US06030963
[1(R*),3a R*(3aα,4β,7aβ)]-3a,4,5,6,7,7a -Hexahydro-1-(1-methyl-5-ethyl-5-hydroxy-3-heptynyl)-7a-methyl-3H-inden-4-ol
To a stirred solution of 1.178 g (3.12 mmole) of [1(R*),3aR* (3aα,4β,7aβ)]-3a,4,5,6,7,7a-hexahydro-1-[1-methyl-5-ethyl-5-hydroxy-3-heptynyl)-7a-methyl-4-[(trimethylsilyl)oxy]-3H-indene in 15 ml anhydrous tetrahydrofuran was added 6 ml (6 mmole) of 1M tetrabutyl ammonium fluoride. The reaction mixture was stirred at room temperature overnight in an argon atmosphere. It was then diluted with 150 ml of water-brine 1:1 and extracted thoroughly with ethyl acetate. The combined extracts were washed with 2×30 ml water, dried over sodium sulfate and evaporated to dryness. The crude product was purified by FLASH chromatography to give 900 mg (94.5%) of the title compound, as a white crystalline solid.

reactant | 3a,4,5,6,7,7a-hexahydro-1-[1-methyl-5-ethyl-5-hydroxy-3-heptynyl)-7a-methyl-4-[(trimethylsilyl)oxy]-3H-indene | CC(CC#CC(CC)(O)CC)C1=CCC2C(CCCC12C)O[Si](C)(C)C | C23H40O2Si
reactant | tetrabutyl ammonium fluoride | 6 mmole, 1M, 6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water brine | 150 ml | O.[Cl-].[Na+].O
product | 3a,4,5,6,7,7a -Hexahydro-1-(1-methyl-5-ethyl-5-hydroxy-3-heptynyl)-7a-methyl-3H-inden-4-ol | 900 mg, 94.5% | CC(CC#CC(CC)(O)CC)C1=CCC2C(CCCC12C)O | C20H32O2
